US06921763B2
A solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (5.00 g, 0.019 mol) in N,N-dimethylformamide (50 mL) was reacted with 60% sodium hydride in oil (0.92 g, 0.023 mol) at ambient temperature. The mixture was stirred for 15 minutes, and 4-nitropyridine-N-oxide (5.37 g, 0.038 mol) was added. The mixture was heated at 100° C. for 18 hours. The precipitate which formed was filtered, washing with N,N-dimethylformamide and ethyl acetate to give 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyridiniumolate (3.79 g, 0.011 mol) as a tan solid:

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.019 mol, 5.00 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | sodium hydride | [H-].[Na+]
reactant | 4-nitropyridine-N-oxide | 0.038 mol, 5.37 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyridiniumolate | 0.011 mol, 3.79 g | NC1=C2C(=NC=N1)N(N=C2I)C2=CC=[N+](C=C2)[O-] | C10H7IN6O
